US06894042B2
Methyl 3-isopropyl-1-benzofuran-5-carboxylate (1.20 g, 5.51 mmol) is dissolved in MeOH (20 ml) and water (4 ml), treated drop-wise with 2N NaOH (3.3 ml, 6.6 mmol) and stirred at RT for 2 days, then at 40° C. for 4 h. The volatiles are removed in vacuo, the residue is dissolved in water (10 ml) and the pH is adjusted to 3 with concentrated HCl. The resulting precipitate is isolated via filtration and dried overnight to afford 1.08 g (97%) of 3-isopropyl-1-benzofuran-5-carboxylic acid as a white solid. MS (ESI−) for C12H12O3 m/z: 203.0 (M−H)−.

reactant | Methyl 3-isopropyl-1-benzofuran-5-carboxylate | 5.51 mmol, 1.20 g | C(C)(C)C1=COC2=C1C=C(C=C2)C(=O)OC | C13H14O3
reactant | NaOH | 6.6 mmol, 2N, 3.3 ml | [OH-].[Na+]
solvent | MeOH | 20 ml | CO | CH4O
solvent | water | 4 ml | O | H2O
product | 3-isopropyl-1-benzofuran-5-carboxylic acid | 1.08 g, 97% | C(C)(C)C1=COC2=C1C=C(C=C2)C(=O)O | C12H12O3
